US07943776B2
N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-3-fluoro-4-(pyridin-2-ylmethoxy)benzamide hydrochloride
Using an analogous procedure to that described in Example 36, N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-3-fluoro-4-(pyridin-2-ylmethoxy)benzamide was reacted with hydrochloric acid to give the title compound; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.68 (m, 2H), 2.28 (s, 3H), 2.86 (m, 1H), 5.60 (s, 2H), 7.32 (m, 1H), 7.43 (m, 1H), 7.66 (m, 1H), 7.84 (m, 5H), 8.40 (m, 2H), 8.83 (m, 1H), 10.07 (br s, 1H); Mass Spectrum: M+H+ 420.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-3-fluoro-4-(pyridin-2-ylmethoxy)benzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)OCC1=NC=CC=C1)F)=O)C | C24H22FN3O3
reactant | hydrochloric acid | Cl | ClH
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-3-fluoro-4-(pyridin-2-ylmethoxy)benzamide hydrochloride | Cl.C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)OCC1=NC=CC=C1)F)=O)C | InChI=1S/C24H22FN3O3.ClH/c1-15-5-6-17(23(29)27-18-8-9-18)13-21(15)28-24(30)16-7-10-22(20(25)12-16)31-14-19-4-2-3-11-26-19;/h2-7,10-13,18H,8-9,14H2,1H3,(H,27,29)(H,28,30);1H
